US04183919
A solution of 2.57 g.; 10 mmoles of methyl 2,3,6-trideoxy-3-trifluoroacetamido-α-L-lyxo-hexopyranoside (II-A) in 45 ml. of dry methylene dichloride was treated at 0° C. with 0.1 ml. of boron trifluoride etherate. While maintaining the temperature at 0°, an excess of diazomethane dissolved in methylene dichloride was added until a faint yellow color persisted. After 90 minutes at 0°, a white solid (polymethylene) was removed by filtration, and the filtrate was washed successively with 10% sodium bicarbonate solution and with water, after which it was dried with anhydrous magnesium sulfate. The residue which was obtained by evaporation was crystallized from ethyl ether-hexane to give pure methyl 2,3,6-trideoxy-3-trifluoroacetamido-4-O-methyl-α-L-lyxo-hexopyranoside (II-B, 2.3 g., 85%): m.p. 137°-138°; [α]D =-150° (c=1, in CHCl3); mass spectrum m/e 271 (M+). The pmr spectrum (CDCl3) showed absorptions at 1.23 (d, CH3 --C-- 5), 3.23 and 3.40 (two s, --OCH3) and 4.70δ (broad s, C--1--H).

reactant | methyl 2,3,6-trideoxy-3-trifluoroacetamido-α-L-lyxo-hexopyranoside | 10 mmoles | FC(C(=O)N[C@H]1C[C@H](OC)O[C@H]([C@H]1O)C)(F)F | C9H14F3NO4
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
product | methyl 2,3,6-trideoxy-3-trifluoroacetamido-4-O-methyl-α-L-lyxo-hexopyranoside | 2.3 g, 85% | FC(C(=O)N[C@H]1C[C@H](OC)O[C@H]([C@H]1OC)C)(F)F | C10H16F3NO4
